US06083965
3-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-1,2,4-triazole;
To a solution of 3,5-dichloro-4-fluorobenzotrifluoride (1.0 g) in dimethylformamide (5 ml) was added 3-amino-1,2,4-triazole (360 mg) and potassium carbonate (296 mg), the mixture was heated at 100° C. for 2 hrs. The reaction was cooled to room temperature, diluted with water (100 ml) and extracted with ether (100 ml). The organic extracts were evaporated to dryness to give the title compounds as pale yellow crystals.

reactant | 3,5-dichloro-4-fluorobenzotrifluoride | 1.0 g | ClC=1C=C(C=C(C1F)Cl)C(F)(F)F | C7H2Cl2F4
reactant | 3-amino-1,2,4-triazole | 360 mg | NC1=NNC=N1 | C2H4N4
reactant | potassium carbonate | 296 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-1,2,4-triazole | NC1=NN(C=N1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C9H5Cl2F3N4
